US06180635B2
5-[(3-Methoxyphenyl)thio]-3-methyl-1-(2-methylpropyl)-6-(1-naphthalenylmethyl)thieno[2,3-d]pyrimidine-2,4-(1H,3H)-dione
A solution of lithium diisopropylamide (3.09 mmol) in anhydrous tetrahydrofuran (10 ml) was added dropwise to a solution of 3-methyl-1-(2-methylpropyl)-6-(1-naphthalenylmethyl)thieno[2,3-d]pyrimidine-2,4(1H,3H)-dione (1.00 g) in anhydrous tetrahydrofuran (25 ml) at −78° C. under nitrogen. After 15 minutes, bis-(3-methoxyphenyl)disulfide (J. Amer. Chem. Soc.; 75; 1953; 5736) (0.88 g) was added and the mixture was allowed to warm to room temperature. The mixture was added to saturated sodium hydrogen carbonate solution (100 ml) and extracted with ether (2×100 ml). The organic extracts were dried over anhydrous magnesium sulfate, filtered and evaporated under reduced pressure. The residue was purified by column chromatography over silica, eluting with isohexane:ether (1:1) to give the title compound (1.00 g) as an oil.

reactant | lithium diisopropylamide | 3.09 mmol | C(C)(C)[N-]C(C)C.[Li+]
reactant | 3-methyl-1-(2-methylpropyl)-6-(1-naphthalenylmethyl)thieno[2,3-d]pyrimidine-2,4(1H,3H)-dione | 1.00 g | CN1C(N(C2=C(C1=O)C=C(S2)CC2=CC=CC1=CC=CC=C21)CC(C)C)=O | C22H22N2O2S
reactant | bis-(3-methoxyphenyl)disulfide | 0.88 g | COC=1C=C(C=CC1)SSC1=CC(=CC=C1)OC | C14H14O2S2
reactant | sodium hydrogen carbonate | 100 ml | C(O)([O-])=O.[Na+]
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
product | 5-[(3-Methoxyphenyl)thio]-3-methyl-1-(2-methylpropyl)-6-(1-naphthalenylmethyl)thieno[2,3-d]pyrimidine-2,4-(1H,3H)-dione | 1.00 g | COC=1C=C(C=CC1)SC1=C(SC=2N(C(N(C(C21)=O)C)=O)CC(C)C)CC2=CC=CC1=CC=CC=C21 | C29H28N2O3S2
